US04055595
A solution of (±)-2-(2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionyl chloride (3.0 g.) in ether (20 ml.) is added dropwise at ambient temperature to a stirred solution of 2-diethylaminoethanol (3.0 ml.) in ether (100 ml.). The mixture is stored for 18 hours, filtered, and the solid is washed with ether. The filtrate and washings are evaporated to an oil (3.5 g.), which is dissolved in ether and run through a column of silica gel made up in ether. The column is eluted with 200 ml. of ether, and the eluate evaporated to give 2.4 g. of an oil which is similarly passed through a column of alumina (Neutral, Grade I, 30 g.). Elution with ether yields (±)-2-diethylaminoethyl 2-(2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionate (1.05 g.) as an oil.

reactant | (±)-2-(2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionyl chloride | 3.0 g | C1=C(C=CC2=CC=CC=C12)COC(C(=O)Cl)(C(F)(F)F)C | C15H12ClF3O2
reactant | 2-diethylaminoethanol | 3.0 ml | C(C)N(CCO)CC | C6H15NO
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | (±)-2-diethylaminoethyl 2-(2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionate | 1.05 g | C1=C(C=CC2=CC=CC=C12)COC(C(=O)OCCN(CC)CC)(C(F)(F)F)C | C21H26F3NO3
